US04421686
A mixture of 30 g of (3R-cis)-3-triphenylmethyl-4-methylsulfonyl-2-azetidinone, 40 g of sodium benzenesulfinate, 25 g of tetra-n-butylammonium bromide, 400 ml of 1,2-dichloroethane, and 100 ml of water were refluxed under nitrogen for 30 minutes. The dichloroethane was removed in vacuo and the residue was extracted with 700 ml of ethyl acetate. The extract was washed with saturated aqueous sodium bicarbonate solution, then water, then saturated aqueous sodium chloride solution. The extract was dried over sodium sulfate and evaporated. The residue was chromatographed on a 50×280 mm silica gel column eluted with 1000 ml 1:4 ethyl acetate:hexane, then 1000 ml 1:1 ethyl acetate:hexane. (3R)-3-triphenylmethyl-4-phenylsulfonyl-2-azetidinone (25.3 g) was obtained as a mixture of cis and trans isomers.

reactant | (3R-cis)-3-triphenylmethyl-4-methylsulfonyl-2-azetidinone | 30 g | C1(=CC=CC=C1)C([C@@H]1C(N[C@@H]1S(=O)(=O)C)=O)(C1=CC=CC=C1)C1=CC=CC=C1 | C23H21NO3S
reactant | sodium benzenesulfinate | 40 g | C1(=CC=CC=C1)S(=O)[O-].[Na+]
reactant | 1,2-dichloroethane | 400 ml | ClCCCl | C2H4Cl2
catalyst | tetra-n-butylammonium bromide | 25 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | water | 100 ml | O | H2O
product | (3R)-3-triphenylmethyl-4-phenylsulfonyl-2-azetidinone | 25.3 g | C1(=CC=CC=C1)C([C@@H]1C(NC1S(=O)(=O)C1=CC=CC=C1)=O)(C1=CC=CC=C1)C1=CC=CC=C1 | C28H23NO3S
